US06441017B1
Step A: 8-(tert-Butoxycarbonylamino)-2-naphthol
A mixture of 8-amino-2-naphthol (500 mg, 3.14 mmol) and di-tert-butyl dicarbonate (685 mg, 3.14 mmol) in CH2Cl2 (10 mL) and THF (5 mL) was stirred at 70° C. for 18 hours, then poured into saturated aqueous Na2CO3 (25 mL) and CH2Cl2 (75 mL). The aqueous layer was extracted further with CH2Cl2 (2×50 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with a gradient of CH2Cl2—0 to 7% EtOAc to yield the desired product as a light brown solid.

reactant | 8-amino-2-naphthol | 3.14 mmol, 500 mg | NC=1C=CC=C2C=CC(=CC12)O | C10H9NO
reactant | di-tert-butyl dicarbonate | 3.14 mmol, 685 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Na2CO3 | 25 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 8-(tert-Butoxycarbonylamino)-2-naphthol | C(C)(C)(C)OC(=O)NC=1C=CC=C2C=CC(=CC12)O | C15H17NO3
